US09403798B2
2-[3-(Trifluoromethyl)-1H-pyrazol-1-yl]ethyl 4-methylbenzenesulfonate
To a tetrahydrofuran solution (4 mL) of the crude product of ethyl 2-[3-(trifluoromethyl)-1H-pyrazol-1-yl]acetate synthesized in Reference Synthesis Example 53, lithium aluminum hydride (40 mg, 1.05 mmol) was added at 0° C. and the resultant solution was stirred for 3 hours. After completion of the reaction, saturated sodium sulfate aqueous solution was added to the reaction solution and the resultant mixture was dried over anhydrous magnesium sulfate and filtered. The obtained filtrate was concentrated under reduced pressure. Subsequently, to a dichloromethane solution (2 mL) of the obtained residue, triethylamine (80 μL, 0.57 mmol) and p-toluenesulfonyl chloride (300 mg, 1.57 mmol) were added and the resultant mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated under reduced pressure and used in the next reaction.

reactant | ethyl 2-[3-(trifluoromethyl)-1H-pyrazol-1-yl]acetate | FC(C1=NN(C=C1)CC(=O)OCC)(F)F | C8H9F3N2O2
reactant | lithium aluminum hydride | 1.05 mmol, 40 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | triethylamine | 0.57 mmol, 80 μL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 1.57 mmol, 300 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 2-[3-(Trifluoromethyl)-1H-pyrazol-1-yl]ethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCN1N=C(C=C1)C(F)(F)F | C13H13F3N2O3S
